* Testcase 000544 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVDD VDD 0 1.8
VVREF VREF 0 0.9
VIN_PLUS IN_PLUS 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)
VLABEL_NET_1 LABEL_NET_1 0 0.9
VIN_MINUS IN_MINUS 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)

* Circuit
I1 N8 GND 1u
I2 VDD N3 1u
I3 VDD N2 1u
I4 N1 GND 1u
I5 VDD N4 1u
I6 VDD N6 1u
XM1 N4 N10 N1 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM2 N6 N6 N8 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM3 N2 N9 N8 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM4 N3 N0 N1 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
R1 N7 VREF 10k
R2 N5 VREF 10k
C1 N7 IN_PLUS 1p
C2 N6 VREF 1p
C3 N9 LABEL_NET_1 1p
C4 N6 N10 1p
C5 N5 IN_MINUS 1p
C6 N0 N2 1p

.control
set filetype=ascii

op
let vdd_current = abs(i(VVDD))
let power_dc = vdd_current * 1.8
print power_dc

print all

quit
.endc

.end
